US04232032
Nitric acid (d=1.54, 10 ml.) was added to a stirred suspension of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid (5 g.) in concentrated sulphuric acid (25 ml.), and the resulting suspension was stirred at room temperature for 2 hrs. The reaction mixture was filtered, and the solid product was crystallised from a mixture of petroleum ether (b.p. 60°-80° C.) and ether to give 8-nitro-2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid, m.p. 211°-212° C.

reactant | Nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid | 5 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)O)(Cl)Cl | C11H6Cl6O4
solvent | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 8-nitro-2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid | [N+](=O)([O-])C1=CC(=CC=2C(OC(OC21)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C(=O)O | C11H5Cl6NO6
